US06635655B1
Methyl 6-Methoxysalicylate
A mixture of 6-methoxysalicylic acid (10.0 g, 59.5 mmol) in methanol (40 mL) and sulfuric acid (2 mL) is heated at reflux 48 h. Although some acid remains the reaction is concentrated to remove the methanol and partitioned between ethyl acetate and saturated sodium carbonate solution. The organic phase is separated and washed with sodium carbonate until no acid remains by TLC analysis. The organic phase is dried and concentrated to provide the title compound as a low melting solid.

reactant | 6-methoxysalicylic acid | 59.5 mmol, 10.0 g | COC=1C=CC=C(C1C(=O)O)O | C8H8O4
reactant | methanol | 40 mL | CO | CH4O
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 6-Methoxysalicylate | COC=1C=CC=C(C1C(=O)OC)O | C9H10O4
